US07964732B2
Step A11H: (R)-1-(1-methyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)ethanamine, Dihydrochloride
(R)-N-((R)-1-(1-methyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)ethyl)-2-methylpropane-2-sulfinamide (0.135 g, 0.00045 mole) was dissolved in HCl in dioxane (4M, 8 ml) and the solution stirred at room temperature overnight under nitrogen. The solution was evaporated and the residue suspended in ether and the white solid filtered off under a blanket of nitrogen. Yield 120 mg 99% (hygroscopic). 1H NMR (400 MHz CD3OD) 7.74 (s, 1H) 4.67, 4.66, 4.64, 4.62 (q, 1H) 4.02 (s, 3H) 1.63, 1.61 (d, 3H) MS (ESI) m/z 194 (M+H)+177 (M+H—NH3)+TLC CH2Cl2:MeOH:NH4OH 95:5:0.5 0.2 UV−ve KMnO4+ve [α]D=+2.87° (c=2.003, CH3OH)

reactant | (R)-N-((R)-1-(1-methyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)ethyl)-2-methylpropane-2-sulfinamide | 0.00045 mole, 0.135 g | CN1N=CC(=C1C(F)(F)F)[C@@H](C)N[S@](=O)C(C)(C)C | C11H18F3N3OS
reactant | HCl | Cl | ClH
solvent | dioxane | 4M, 8 ml | O1CCOCC1 | C4H8O2
product | (R)-1-(1-methyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)ethanamine, Dihydrochloride | Cl.Cl.CN1N=CC(=C1C(F)(F)F)[C@@H](C)N | InChI=1S/C7H10F3N3.2ClH/c1-4(11)5-3-12-13(2)6(5)7(8,9)10;;/h3-4H,11H2,1-2H3;2*1H/t4-;;/m1../s1
